US07572928B2
A flame dried round-bottomed flask was charged with allyltriisopropylsilane (0.722 mL, 3 mmol, 3 eq), 3-butenoic acid (0.084 mL, 1 mmol, 1 eq) and DCM (3 mL). Hoveyda-Grubbs' Catalyst (31 mg, 0.05 mmol, 0.05 eq) was subsequently added as a solid and the reaction was heated to reflux (40° C.) under an atmosphere of argon. After 3 days the reaction was concentrated under reduced pressure to give a dark brown oil. Column chromatography (hexane:ether, 85:15, to remove excess silane, then 50:50) gave 5-(triisopropylsilyl)-pent-3-enoic acid as a colourless oil (223 mg, 87% yield). For major isomer E: 1H NMR (400 MHz, CDCl3) δ 1.05-1.06 (m, 21H, Si(i−Pr)3), 1.61-1.63 (d, 2H, CH2Si(i−Pr)3, J=8.0 Hz), 3.04-3.06 (d, 2H, HOOCCH2, J=7 Hz), 5.37-5.45 (m, 1H, CH2CHCH), 5.62-5.70 (dt, CH2CHCH, J=15.1, 8.2 Hz), 11.41 (s, 1H, COOH); 13C NMR (50 MHz, CDCl3) δ 10.9 (Si(CH(CH3)2)3), 15.6 (CH2Si(i−Pr)3), 18.6 (Si(CH(CH3)2)3), 38.0 (HOOCCH2), 118.8 (CH2CHCH), 132.6 (CH2CHCH), 178.7 (HOOC). For minor isomer Z: 1H NMR (400 MHz, CDCl3) δ 1.05-1.06 (m, 21H, Si(i−Pr)3), 1.56-1.58 (d, 2H, CH2Si(i−Pr)3, J=8.6 Hz), 3.17-3.19 (d, 2H, HOOCCH2, J=7.8 Hz), 5.37-5.45 (m, 1H, CH2CHCH), 5.71-5.78 (m, CH2CHCH), 11.41 (s, 1H, COOH); 13C NMR (50 MHz, CDCl3) δ 11.0 (CH2Si(i−Pr)3), 11.1 (Si(CH(CH3)2)3), 18.6 (Si(CH(CH3)2)3), 32.5 (HOOCCH2), 117.5 (CH2CHCH), 130.7 (CH2CHCH), 178.6 (HOOC); IR (v, cm−1) 2867 (COO—H), 1713 (HOC═O), 660 (C—Si); HRMS required for C14H28O2Si: 256.1859, found 256.1866.

reactant | allyltriisopropylsilane | 3 mmol, 0.722 mL, 3 eq | C(C=C)[Si](C(C)C)(C(C)C)C(C)C | C12H26Si
reactant | 3-butenoic acid | 1 mmol, 0.084 mL, 1 eq | C(CC=C)(=O)O | C4H6O2
catalyst | Hoveyda-Grubbs' Catalyst | 0.05 mmol, 31 mg, 0.05 eq | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-(triisopropylsilyl)-pent-3-enoic acid | 223 mg, 87% yield | C(C)(C)[Si](CC=CCC(=O)O)(C(C)C)C(C)C | C14H28O2Si
